US05731340
2.1 g of 2,6-dimethoxy-4-methylaniline are dissolved in 10 ml of toluene, 0.5 ml of formic acid is then added to this solution and the mixture is heated to gentle reflux, under inert atmosphere, and 0.93 g of 2-adamantanone, dissolved in 10 ml of toluene, is added dropwise at this temperature. The reaction mixture is heated at reflux for 48 hours, is then evaporated to dryness and the residue is taken up in 30 ml of 2N hydrochloric acid. The insoluble white crystals are filtered and discarded. The acidic filtrate is extracted with dichloromethane. The organic extracts are washed with a 5% aqueous sodium bicarbonate solution and then with water and the organic phases are then dried over anhydrous sodium sulphate. Evaporation leaves a colourless residue which is purified by flash chromatography on a column of silica gel, eluent: toluene/ethyl acetate 7/3 (v/v) in order to obtain N-(2-adamantyl)-2,6-dimethoxy-4-methylaniline; M.p.=100° C., Yield 52%.

reactant | 2,6-dimethoxy-4-methylaniline | 2.1 g | COC1=C(N)C(=CC(=C1)C)OC | C9H13NO2
reactant | formic acid | 0.5 ml | C(=O)O | CH2O2
reactant | 2-adamantanone | 0.93 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-adamantyl)-2,6-dimethoxy-4-methylaniline | Yield 52% | C12C(C3CC(CC(C1)C3)C2)NC2=C(C=C(C=C2OC)C)OC | C19H27NO2
